US06004955
Cis-3-[2-[2-methyl-3-[4-(aminoiminomethyl)phenyl]-isoxazolidin-5-yl]acetyl]amino-N-(3-methylphenylsulfonyl)-L-alanine monohydrogenchloride
Cis-3-[2-[2-methyl-3-[4-(aminoiminomethyl)phenyl]-isoxazolidin-5-yl] -acetyl] amino-N-(3-methylphenylsulfonyl)-L-alanine methyl ester(100 mg, 0.19 mmol) was dissolved in 3N HCl(3 ml). The resulting solution was stirred at rt for 36 hrs and then concentrated to yield the acid as an amorphous solid(90 mg, 90% yield). The acid was further purified by reverse HPLC using water and 0.1% TFA in acetonitrile as eluent. 1H NMR(300 MHz, DMSO-d6)δ2.24(m, 1H), 2.38(s, 3H), 2.54(s, 3H), 2.60(m, 1H), 2.98(m, 1H), 3.08(m, 1H), 3.22(m,1H), 3.36(m, 1H), 3.86(m, 1H), 4.40(m,1H), 4.74(m, 1H), 7.43(m, 2H), 7.38(m, 2H), 7.80(d, J=7, 1H), 7.94(d, J=7, 2H), 8.20(m, 2H); MS(ESI) Calc. for (M+1)+ : 504. Found: 504.

reactant | Cis-3-[2-[2-methyl-3-[4-(aminoiminomethyl)phenyl]-isoxazolidin-5-yl] -acetyl] amino-N-(3-methylphenylsulfonyl)-L-alanine methyl ester | 0.19 mmol, 100 mg | COC([C@@H](NS(=O)(=O)C1=CC(=CC=C1)C)CNC(C[C@@H]1C[C@@H](N(O1)C)C1=CC=C(C=C1)C=NN)=O)=O | C24H31N5O6S
reactant | HCl | 3N, 3 ml | Cl | ClH
product | Cis-3-[2-[2-methyl-3-[4-(aminoiminomethyl)phenyl]-isoxazolidin-5-yl]acetyl]amino-N-(3-methylphenylsulfonyl)-L-alanine monohydrogenchloride | 90 mg, 90% yield | Cl.CN1O[C@@H](C[C@@H]1C1=CC=C(C=C1)C=NN)CC(=O)NC[C@H](NS(=O)(=O)C1=CC(=CC=C1)C)C(=O)O | InChI=1S/C23H29N5O6S.ClH/c1-15-4-3-5-19(10-15)35(32,33)27-20(23(30)31)14-25-22(29)12-18-11-21(28(2)34-18)17-8-6-16(7-9-17)13-26-24;/h3-10,13,18,20-21,27H,11-12,14,24H2,1-2H3,(H,25,29)(H,30,31);1H/t18-,20-,21+;/m0./s1
